US05807897
b. 3-Bromo-2,5-dimethoxybenzyl Chloride
To a solution of 8.18 gm (33.11 mmol) of 3-bromo-2,5-dimethoxybenzyl alcohol and 0.8 ml pyridine in 100 ml ether was added dropwise a solution of 8.5 ml (116 mmol) thionyl chloride in 20 ml ether. After stirring at ambient temperature for 20 hours, the reaction mixture was poured onto ice. The ether extract was washed with brine, dried (NaSO4), filtered and concentrated in vacuo to give 7.59 gm of a colorless oil. A portion, 3.9 gm, was purified by silica gel chromatography using 3:7 CH2 Cl2 :hexane to yield 3.62 gm of a white solid.

reactant | 3-bromo-2,5-dimethoxybenzyl alcohol | 33.11 mmol, 8.18 gm | BrC=1C(=C(CO)C=C(C1)OC)OC | C9H11BrO3
reactant | pyridine | 0.8 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 116 mmol, 8.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 3-Bromo-2,5-dimethoxybenzyl Chloride | 7.59 gm | BrC=1C(=C(CCl)C=C(C1)OC)OC | C9H10BrClO2
